Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10].[H:11],5.01425054651
[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]#[C:11][H:12].[H:1][C:2](/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])([H:13])[H:14],6.10324566153
[C:3]([H:4])#[C:5][H:6].[H:1][C:2]#[C:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7][H:8],0.8835848262999999
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])([C:8])[H:12].[H:1][C:2]([H:3])=[C:4]=[C:9]([H:10])[H:11],0.89629839874
[C:9]([H:10])[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.09903120051
[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-7.702758129039999
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([O:4])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],3.67381637508
[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-3.94231950249
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:5],4.38580258355
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],4.093629675919998
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2],5.00184129389
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[C:8]([H:9])([H:10])[H:11],3.79669840336
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.37197851929
[H:11].[H:1]/[C:2](=[C:3](\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.564052805759999
[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2][O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-6.82911588613
[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][H:10],-4.71044701666
[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[C:4]([C:5]#[C:6][H:7])[O:8][H:9].[H:1][C:2]=[O:3],0.34935954236
[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[O:7][C:8][H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9],1.22291622073
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.0443587491600002
[H:14].[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.45321614527
[H:1][C:2]=[C:3]([H:4])[C:5]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],-1.3364844706
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([C:4][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17])[H:10].[H:5][C:6]=[C:7]([H:8])[H:9],5.64705065617
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:2](#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1],4.18053009637
[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:1]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[H:8],-7.246728006839999
[C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-1.46576897965
[C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-7.69824421572
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],0.3438308505699999
